US06239131B1
Preparation of 2-oxo-3-tert-butoxycarbonylamino-5-(3,3-dimethylbutanoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (2.00 g) obtained from Referential Example 7 was suspended in 1,2-dichloroethane (40 ml), 3,3-dimethylbutanoyl chloride (1.07 g) and pyridine (627 mg) were added, and the mixture was refluxed for 2 hours. Water was added to the reaction mixture, separated, the organic layer was washed with saturated aqueous sodium bicarbonate, dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure, to thereby obtain 2.53 g of the titled compound (Yield: 90.1%).

reactant | 2-Oxo-3-tert-butoxycarbonylamino-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 2.00 g | O=C1C(CNC2=C(N1)C=C(C=C2)C)NC(=O)OC(C)(C)C | C15H21N3O3
reactant | 3,3-dimethylbutanoyl chloride | 1.07 g | CC(CC(=O)Cl)(C)C | C6H11ClO
reactant | pyridine | 627 mg | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
product | 2-oxo-3-tert-butoxycarbonylamino-5-(3,3-dimethylbutanoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 2.53 g, Yield: 90.1% | O=C1C(CN(C2=C(N1)C=C(C=C2)C)C(CC(C)(C)C)=O)NC(=O)OC(C)(C)C | C21H31N3O4
